US04778796
A mixture of 3.0 g of ethyl 3-(3-hydroxy-5-hydroxymethyl-2-methyl-4-pyridyl)acrylate hydrochloride in 15 ml of 1N aqueous sodium hydroxide solution is stirred at room temperature for 1 hour. The reaction mixture is adjusted to pH 4 with 10% hydrochloric acid, and the resulting precipitate is collected to give 2.2 g of 3-(3-hydroxy-5-hydroxymethyl-2-methyl-4-pyridyl)acrylic acid.

reactant | ethyl 3-(3-hydroxy-5-hydroxymethyl-2-methyl-4-pyridyl)acrylate hydrochloride | 3.0 g | Cl.OC=1C(=NC=C(C1C=CC(=O)OCC)CO)C
reactant | hydrochloric acid | Cl | ClH
solvent | sodium hydroxide | 1N, 15 ml | [OH-].[Na+]
product | 3-(3-hydroxy-5-hydroxymethyl-2-methyl-4-pyridyl)acrylic acid | 2.2 g | OC=1C(=NC=C(C1C=CC(=O)O)CO)C | C10H11NO4
